US05420126
In 1.5 ml of methylene chloride were dissolved 0.5 g of ethyl (3,4-dihydro-6-nitro-3-oxo-2H-1,4-benzoxazin-4-yl)acetate and 0.16 g of 40% methylamine-methanol and the mixture was allowed to stand at room temperature for 3 days. The solvent was then distilled off and the residue was recrystallized from methylene chloride-hexane to give 0.2 g of 2-(3,4-dihydro-6-nitro-3-oxo-2H-1,4-benzoxazin-4-yl)-N-methylacetamide. This compound has the following physicochemical properties.

reactant | ethyl (3,4-dihydro-6-nitro-3-oxo-2H-1,4-benzoxazin-4-yl)acetate | 0.5 g | [N+](=O)([O-])C=1C=CC2=C(N(C(CO2)=O)CC(=O)OCC)C1 | C12H12N2O6
reactant | methylamine methanol | 0.16 g | CN.CO
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,4-dihydro-6-nitro-3-oxo-2H-1,4-benzoxazin-4-yl)-N-methylacetamide | 0.2 g | [N+](=O)([O-])C=1C=CC2=C(N(C(CO2)=O)CC(=O)NC)C1 | C11H11N3O5
